US07671060B2
3-[(2S)-1-(Difluoromethoxy)propan-2-yl]oxy-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide
3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-N-(5-methylpyrazin-2-yl)-5-phenylmethoxy-benzamide (0.48 g, 1.08 mmol) was dissolved in ethanol (10 mL) and THF (10 mL) and the flask evacuated and purged with argon (3 times). 10% Palladium on carbon (48 mg) was added and the flask further evacuated and finally purged with hydrogen gas. The reaction mixture was stirred at RT for 20 hours. The reaction mixture was evacuated and purged with argon (3 times) and the catalyst removed by filtration through Celite®. The filtrate was concentrated in vacuo to give the desired compound (0.38 g).

reactant | 3-[(2S)-1-(difluoromethoxy)propan-2-yl]oxy-N-(5-methylpyrazin-2-yl)-5-phenylmethoxy-benzamide | 1.08 mmol, 0.48 g | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OCC1=CC=CC=C1)F | C23H23F2N3O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[(2S)-1-(Difluoromethoxy)propan-2-yl]oxy-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide | 0.38 g | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O)F | C16H17F2N3O4
